US07371877B2
Sodium hydride (0.8 g) was added with DMF (5 mL) and tetrahydrofuran (THF, 20 mL) and stirred at 0° C. The reaction solution was added dropwise with a solution of (S)-(+)-2,2-dimethyl-1,3-dioxolane-4-methanol (2.4 g) in a mixture of DMF (3 mL) and THF (3 mL) and stirred at 0° C. for 1 hour. The reaction solution was added with 4-methoxybenzyl chloride (2.8 mL) and stirred at room temperature for 3 hours. The reaction solution was added with a saturated ammonium chloride solution and extracted twice with ethyl acetate, and the resulting organic layer was washed four times with water and once with saturated brine. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed to obtain a crude product of (S)-(+)-4-(4-methoxybenzyloxymethyl)-2,2-dimethyl-1,3-dioxolane (4.1 g, yield: 89%).

reactant | Sodium hydride | 0.8 g | [H-].[Na+]
reactant | (S)-(+)-2,2-dimethyl-1,3-dioxolane-4-methanol | 2.4 g | CC1(OC[C@@H](O1)CO)C | C6H12O3
reactant | 4-methoxybenzyl chloride | 2.8 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | THF | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (S)-(+)-4-(4-methoxybenzyloxymethyl)-2,2-dimethyl-1,3-dioxolane | 4.1 g, yield: 89% | COC1=CC=C(COC[C@@H]2OC(OC2)(C)C)C=C1 | C14H20O4
